US07700640B2
3,5-Difluorophenol (2.00 equiv; 51.8 mmol; 6.74 g) was charged to a 100 ml round-bottomed flask (3 necks, 2 stoppers, air condenser with argon inlet, magnetically stirred, oven dried) followed by NMP (471 mmol; 45.3 ml; 46.7 g) and cesium carbonate (51.8 mmol; 16.9 g). The mixture was sparged with argon for 10 minutes then cuprous monochloride (6.48 mmol; 641 mg), 2,2,6,6-tetramethyl-3,5-heptanedione, (1.30 mmol; 271 μl; 239 mg) and 3-bromo-5-(2-methoxy-1-methylethoxy)benzonitrile (1.00 equiv; 25.9 mmol; 7.00 g) were charged sequentially. The mixture was sparged with argon for 5 minutes then heated to 120° C. and stirred for 24 hours. The reaction mixture was cooled and partitioned between HCl solution (1M, aqueous, 200 ml) and MTBE (200 ml). The layers were separated and the organic portion washed with NaOH solution (1M, aq, 200 ml), water (200 ml) and brine (200 ml). The resultant organic solution was dried over MgSO4, filtered and the solvent removed in vacuo affording a brown oil. This material was purified by flash column chromatography affording 3-(3,5-difluorophenoxy)-5-(2-methoxy-1-methylethoxy)benzonitrile as a pale yellow oil (5.17 g, 63%). 1H NMR (400 MHz, CDCl3) δ: 7.01 (s, 1H), 6.86 (m, 2H), 6.62 (m, 1H), 6.53 (m, 2H), 4.54 (m, 1H), 3.53 (m, 2H), 3.39 (s, 3H), 1.32 (d, 3H).

reactant | 3,5-Difluorophenol | 51.8 mmol, 6.74 g, 2.00 equiv | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | NMP | 471 mmol, 45.3 ml, 46.7 g | CN1CCCC1=O | C5H9NO
reactant | cesium carbonate | 51.8 mmol, 16.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | 3-bromo-5-(2-methoxy-1-methylethoxy)benzonitrile | 25.9 mmol, 7.00 g, 1.00 equiv | BrC=1C=C(C#N)C=C(C1)OC(COC)C | C11H12BrNO2
product | 3-(3,5-difluorophenoxy)-5-(2-methoxy-1-methylethoxy)benzonitrile | 5.17 g, 63% | FC=1C=C(OC=2C=C(C#N)C=C(C2)OC(COC)C)C=C(C1)F | C17H15F2NO3
